### PR TITLE
Partially merge master into rt

### PR DESCRIPTION
**Pull request by corlewis**
Significant changes merged in that are visible to rt proofs:
* refine: adjust arch interfaces for Untyped_R arch-split
* refine: arch-split Untyped_R
* arm-hyp+aarch64: sync VCPU context switching
* crefine: adjust for ptr name mangling change
* arm+arm-hyp+aarch64 spec+proof: additional dsb for doFlush/Unify
* refine: arch-split Arch_R
* refine x64+riscv64+aarch64: add dummy vs_valid_duplicates'
* refine: arch-split Syscall_R
* lib/monads+proofs: add whenE_True/False
* arm spec+proof: stale cap check for PageFlush
* aarch64 machine: sync kernelELFBase with seL4
* refine: arch-split ADT_H
* refine: make IncKernelInit.thy generic, use ARM version
* refine: make KernelInit_R generic, use ARM version
* refine: arch-split Refine
* refine: remove PageTableDuplicates on 64-bit architectures
* refine: remove InitLemmas
* refine: add new RefineToplevel_R to Refine session
* refine+crefine: make RAB_FN generic
* refine: arch-split EmptyFail_H
* riscv machine+m-skel: maxIRQ declaration + lemmas
* riscv machine: remove incorrect 0xFF in getActiveIRQ
* riscv aspec: adjustments for generic maxIRQ
* riscv proofs: update for generic maxIRQ

As always with these merges, the main commit to review is the 'update after merge' one. Quite a lot of work went into the merge commit itself, trying to resolve conflicts in a way that minimised the overall effort, but I don't know how feasible that is to review.

### CODE REVIEW

File: proof/crefine/RISCV64/Refine_C.thy [hunk 1]
```diff
@@ -127,7 +127,8 @@ lemma handleInterruptEntry_ccorres:
           apply (rule allI, rule conseqPre, vcg)
           apply (clarsimp simp: return_def)
          apply wpsimp
-        apply (wp schedule_sch_act_wf schedule_invs' hoare_drop_imps)+
+        apply (wp schedule_sch_act_wf schedule_invs' hoare_drop_imps
+                  maybeHandleInterrupt_invs')+ (* FIXME rt arch-split *)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Refine_C.thy]: what's this FIXME for?

File: proof/refine/VSpace_R.thy [hunk 2]
```diff
@@ -179,5 +179,27 @@ locale VSpace_R =
     "\<And>thread fault.
      corres (fr \<oplus> dc) (tcb_at thread and pspace_aligned and pspace_distinct) (tcb_at' thread)
             (handle_vm_fault thread fault) (handleVMFault thread fault)"
+  assumes badgeRegister_badge_register:
+    "badgeRegister = badge_register"
+  assumes lookupIPCBuffer_valid_ipc_buffer[wp]:
+    "\<And>b s. \<lbrace>valid_objs'\<rbrace> lookupIPCBuffer b s \<lbrace>case_option \<top> valid_ipc_buffer_ptr'\<rbrace>"
+
```
Comment (Xaphiosis) [inline proof/refine/VSpace_R.thy]: since you didn't like the extra line here, I'm point it out now :)

**Comment by Xaphiosis** [comment]
Reviewed the adjustment-after-merge commit. Looks good, and I appreciate the comments explaining what's going on with the over-RISCV'ed lemmas and the sorries.

File: proof/crefine/RISCV64/Refine_C.thy (hunk 1 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Refine_C.thy]: This is one of the RISCV lemmas that can be removed once the assertions are added. Thanks for pointing it out, I was trying to add more to the FIXMEs for these to make them easier to find but missed this one.

File: proof/refine/VSpace_R.thy (hunk 2 above)
Comment (corlewis) [reply proof/refine/VSpace_R.thy]: Haha, good spotting!

File: proof/refine/RISCV64/ArchSyscall_R.thy [hunk 3]
```diff
@@ -72,8 +73,11 @@ lemma handleSpuriousIRQ_corres[Syscall_R_assms, corres]:
   by (simp add: handle_spurious_irq_def handleSpuriousIRQ_def)
 
 lemma handleHypervisorFault_corres[Syscall_R_assms]:
-  "corres dc einvs invs' (handle_hypervisor_fault w fault) (handleHypervisorFault w fault)"
-  by (cases fault; clarsimp simp add: handleHypervisorFault_def returnOk_def2)
+  "corres dc (einvs and  st_tcb_at active thread and ex_nonz_cap_to thread)
```
Comment (michaelmcinerney) [inline proof/refine/RISCV64/ArchSyscall_R.thy]: Nitpick: extra space before the `st_tcb_at`. We would normally format these statements a bit differently, too. The guards would be indented 2 spaces from `corres`. Not that important, though.

File: proof/refine/Detype_R.thy [hunk 4]
```diff
@@ -2612,7 +2612,7 @@ locale Detype_R =
                        \<and> descendants_range (cap.UntypedCap d base magnitude idx) cref s)
              \<and> untyped_children_in_mdb s \<and> if_unsafe_then_cap s
              \<and> valid_mdb s \<and> valid_global_refs s \<and> ct_active s
-             \<and> schact_is_rct s)
+             \<and> scheduler_action s = resume_cur_thread)
```
Comment (michaelmcinerney) [inline proof/refine/Detype_R.thy]: Do you know why this one was changed? Normally the definition works better so that we don't get unwanted rewrites happening.

File: proof/refine/Syscall_R.thy [hunk 5]
```diff
@@ -222,7 +223,10 @@ locale Syscall_R =
      \<lbrace>\<lambda>_. invs'\<rbrace>"
   assumes handleHypervisorFault_corres:
     "\<And>thread fault.
-     corres dc einvs invs' (handle_hypervisor_fault w fault) (handleHypervisorFault w fault)"
+     corres dc (einvs and  st_tcb_at active thread and ex_nonz_cap_to thread)
```
Comment (michaelmcinerney) [inline proof/refine/Syscall_R.thy]: Same as before, with the extra space and the formatting.

File: proof/refine/Syscall_R.thy [hunk 6]
```diff
@@ -1704,22 +1715,33 @@ lemma handleInvocation_invs'[wp]:
...
+  apply (simp add: get_cap_reg_def getCapReg_def capRegister_cap_register)
   apply (rule corres_guard_imp)
     apply (rule corres_split[OF getCurThread_corres], simp)
       apply (rule corres_rel_imp)
        apply (rule asUser_getRegister_corres)
       apply (wpsimp simp: ct_in_state_def ct_in_state'_def)+
   done
 
+lemma getCapReg_corres_gen:
+  "corres (\<lambda>x y. x = to_bl y) (cur_tcb  and pspace_aligned and pspace_distinct) \<top>
```
Comment (michaelmcinerney) [inline proof/refine/Syscall_R.thy]: Extra space in the abstract guard.

File: proof/refine/Syscall_R.thy [hunk 7]
```diff
@@ -2685,12 +2720,18 @@ lemma he_invs'[wp]:
...
+                       updateTimeStamp_cur_tcb'[unfolded cur_tcb'_def]
                     | clarsimp dest!: ksCurThread_schedulable'_ct_active'
-                                simp: ct_in_state'_def runnable_eq_active'
-                    | wpc)+
+                                simp: ct_in_state'_def runnable_eq_active' ct_active_imp_simple'
+                    | rule conjI
+                    | erule st_tcb_ex_cap''
+                    | drule st_tcb_at_idle_thread'
+                    | wpc | wps)+
+  sorry (* FIXME: rt arch-split: need to assert and cross over if_live_then_nonz_cap' and valid_idle' *)
```
Comment (michaelmcinerney) [inline proof/refine/Syscall_R.thy]: I removed `if_live_then_nonz_cap'` and `valid_idle'` from `invs'`, which makes me think that we might be able to remove these from whichever lemma is still using them and causing them to appear here. Or easily add asserts.

File: proof/refine/Syscall_R.thy [hunk 8]
```diff
@@ -3052,9 +3094,10 @@ proof -
        apply (rule corres_guard_imp[OF getCurThread_corres], simp+)
       apply (rule handleHypervisorFault_corres)
      apply wpsimp
+     apply (fastforce simp: ct_in_state_def intro: runnable_nonz_cap_to elim: st_tcb_weakenE)
     apply wp
-    apply (clarsimp simp: active_from_running' invs'_def valid_pspace'_def)
-    done
+    apply (clarsimp simp: active_from_running' invs'_def valid_pspace'_def ct_active_imp_simple')
+    sorry (* FIXME: rt arch-split: need to assert and cross over if_live_then_nonz_cap' *)
```
Comment (michaelmcinerney) [inline proof/refine/Syscall_R.thy]: Same as before, where this can probably be cleared up by removing `if_live_then_nonz_cap'` from wherever it's still used.

**Review by michaelmcinerney — APPROVED** [review]
Looks good!

File: proof/refine/Syscall_R.thy (hunk 7 above)
Comment (corlewis) [reply proof/refine/Syscall_R.thy]: Aha, it was a bit complicated because what was actually happening was that an `ex_nonz_cap_to'` and a `t  ≠ ksIdleThread` precondition was coming from an interface lemma, but I think that you're right and these can be removed!

Looking into the AARCH64 proof in master, these conditions come from `handleHypervisorFault` calling `handleFault`, and like you said, the `handleFault` lemmas have simpler preconditions.

File: proof/refine/RISCV64/ArchSyscall_R.thy (hunk 3 above)
Comment (corlewis) [reply proof/refine/RISCV64/ArchSyscall_R.thy]: Thanks for spotting. These come from master, so I'll update there as well (same for your other comments).

File: proof/refine/Detype_R.thy (hunk 4 above)
Comment (corlewis) [reply proof/refine/Detype_R.thy]: This is a bit confusing, it looks like I changed away from the definition in a past merge into rt? Not sure what happened, that might have been an accident while resolving conflicts. I'll try switching back to the definition now and see if everything still works.

Comment (michaelmcinerney) [reply proof/refine/Detype_R.thy]: Alright, but if you come across problems, it might not be worth trying too hard. It's probably fairly minor.

**Comment by corlewis** [comment]
Following on from Michael's comments, it looks like all of these conditions that have been causing difficulties and making us think that crossing over assertions would be needed come from `handleFault` lemmas on master, and the rt versions have previously had their equivalent preconditions removed as not needed. This means that we can simplify the interface lemmas that had these conditions and it should all work out.

This solves things for RISCV64 for now and once AARCH64 Refine has progressed up to these proofs we'll find out if it works there as well.

File: proof/crefine/RISCV64/Refine_C.thy (hunk 1 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Refine_C.thy]: After additional changes, this FIXME has been able to be removed completely.

File: proof/refine/Detype_R.thy (hunk 4 above)
Comment (corlewis) [reply proof/refine/Detype_R.thy]: There was one fastforce in this lemma that needed the definition unfolded but otherwise it didn't cause any problems.

**Review by lsf37 — APPROVED** [review]
Nothing to add from my side. Good to go when the tests have passed!
